* Z:\mnt\design.r\spice\examples\3026.asc
L1 IN N001 10µ
V1 IN 0 1.5
C1 N002 0 4.7µ
R1 OUT N004 100K
XU1 IN MP_01 0 N001 N002 IN N004 N003 OUT LTC3026
R2 OUT N003 8.06K
R3 OUT 0 .8
R4 N003 0 4.02K
C2 OUT 0 10µ
.tran .1 startup
.lib LTC3026.lib
.backanno
.end
